US08859571B2
A solution of 4,5,6-tris(methyloxy)-1H-indole-2,3-dione (10 g, 42.2 mmol) in 33% aqueous NaOH (70.5 ml, 582 mmol) at 100° C. was treated with 30% aqueous hydrogen peroxide (12.9 ml, 126 mmol) dropwise over 30 min, at a rate to prevent the foaming mixture from overflowing the flask. After addition was complete, the mixture was stirred for 10 minutes before being cooled and diluted by the addition of ice. The mixture was adjusted to pH 8 by addition of concentrated HCl (70 mL) and then acidified to pH 3 with the addition of glacial acetic acid. The solid that formed was collected by filtration, washed with water, and dried under vacuum to give 6-amino-2,3,4-tris(methyloxy)benzoic acid (2.7 g, 28%) as a tan solid. MS (m/z) 228.0 (M+H+).

reactant | 4,5,6-tris(methyloxy)-1H-indole-2,3-dione | 42.2 mmol, 10 g | COC1=C2C(C(NC2=CC(=C1OC)OC)=O)=O | C11H11NO5
reactant | NaOH | 582 mmol, 70.5 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 126 mmol, 12.9 ml | OO | H2O2
reactant | HCl | 70 mL | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-amino-2,3,4-tris(methyloxy)benzoic acid | 2.7 g, 28% | NC1=CC(=C(C(=C1C(=O)O)OC)OC)OC | C10H13NO5
